US07115645B2
b) 6-[[3-[(3,4-Dimethylphenyl)amino]-4,6-dinitrophenyl]oxy]hexanoic acid methyl ester
5 g of 3-[(3,4-dimethylphenyl)amino]-4,6-dinitrophenol was O-alkylated with 6-bromohexanoic acid methyl ester at 70° C. analogously to general operating instructions 8.

reactant | 3-[(3,4-dimethylphenyl)amino]-4,6-dinitrophenol | 5 g | CC=1C=C(C=CC1C)NC=1C=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])O | C14H13N3O5
reactant | 6-bromohexanoic acid methyl ester | COC(CCCCCBr)=O | C7H13BrO2
product | 6-[[3-[(3,4-Dimethylphenyl)amino]-4,6-dinitrophenyl]oxy]hexanoic acid methyl ester | COC(CCCCCOC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC(=C(C=C1)C)C)=O | C21H25N3O7
